US07015218B1
3-Bromo-4-(4-morpholinopiperidin-1-yl)aniline
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 40 using 3-bromo-4-chloronitrobenzene and 4-morpholinopiperidine, the title compound was obtained, melting point: 215–217° C.

reactant | 3-bromo-4-chloronitrobenzene | BrC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | 4-morpholinopiperidine | O1CCN(CC1)C1CCNCC1 | C9H18N2O
product | 3-Bromo-4-(4-morpholinopiperidin-1-yl)aniline | BrC=1C=C(N)C=CC1N1CCC(CC1)N1CCOCC1 | C15H22BrN3O
